US08664220B2
Step 1: 2-Benzenesulfinyl-6-bromo-pyridine
2-Bromo-6-phenylsulfanyl-pyridine (0.5323 g, 2 mmol) was dissolved in CH2Cl2 (20 mL) and m-chloroperbenzoic acid (0.345 g, 2 mmol) was added. The reaction was stirred at room temperature overnight then submitted to aqueous workup and purification on silica gel to give the title compound.

reactant | 2-Bromo-6-phenylsulfanyl-pyridine | 2 mmol, 0.5323 g | BrC1=NC(=CC=C1)SC1=CC=CC=C1 | C11H8BrNS
reactant | m-chloroperbenzoic acid | 2 mmol, 0.345 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzenesulfinyl-6-bromo-pyridine | C1(=CC=CC=C1)S(=O)C1=NC(=CC=C1)Br | C11H8BrNOS
